US05011947
3,3-bis(4-fluorophenYl)-2-(1-methylethyl)propenal
A solution of 3,3-bis(4-fluorophenyl)-2-(1-methylethyl)-propenol (2.0 g, 6.9 mmol) and pyridinium chlorochromate (3 g) in 100 mL dichloromethane was stirred for 20 hrs. during which time a dark gummy solid separated. The solvent was decanted from the solid and concentrated in vacuo. The residue was extracted with hexane and the hexane solution concentrated in vacuo. The residue was crystallized from petroleum ether to give 1.4 g of the title compound; m.p. =78°-84° C.

reactant | 3,3-bis(4-fluorophenyl)-2-(1-methylethyl)-propenol | 6.9 mmol, 2.0 g | FC1=CC=C(C=C1)C(C(=CO)C(C)C)C1=CC=C(C=C1)F | C18H18F2O
reactant | pyridinium chlorochromate | 3 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3,3-bis(4-fluorophenYl)-2-(1-methylethyl)propenal | 1.4 g | FC1=CC=C(C=C1)C(=C(C=O)C(C)C)C1=CC=C(C=C1)F | C18H16F2O
